US08426411B2
To a solution of butyl cyclopropanesulfonate (1.5 g, 8.4 mmol) in THF (8 mL) at about −78° C., n-BuLi (1.6 M in hexanes, 5.26 mL, 8.42 mmol) and iodomethane (0.684 mL, 10.9 mmol) were added simultaneously and the resulting mixture was stirred at about −78° C. for about 2 h and then at ambient temperature for about 2 h. The reaction was quenched by the addition of saturated aqueous NH4Cl (7 mL) and the layers were separated. The aqueous layer was back extracted with EtOAc (15 mL) and the combined organic extracts were dried over anhydrous MgSO4 and concd under reduced pressure. The residue was subjected to silica gel column chromatography (5 to 25% EtOAc in heptane over 30 min) to yield butyl 1-methylcyclopropane-1-sulfonate (0.8 g, 49%) as a colorless oil. 1H NMR (DMSO-d6) δ 4.17 (t, 2H), 1.62 (m, 2H), 1.43 (s, 3H), 1.35 (m, 2H), 1.22 (m, 2H), 0.94 (m, 2H), 0.88 (t, 3H).

reactant | butyl cyclopropanesulfonate | 8.4 mmol, 1.5 g | C1(CC1)S(=O)(=O)OCCCC | C7H14O3S
reactant | n-BuLi | 8.42 mmol, 1.6 M, 5.26 mL | [Li]CCCC
reactant | iodomethane | 10.9 mmol, 0.684 mL | IC | CH3I
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | butyl 1-methylcyclopropane-1-sulfonate | 0.8 g, 49% | CC1(CC1)S(=O)(=O)OCCCC | C8H16O3S
